US07465808B2
B. 3-[5-(3,4-Dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-2-methyl-2-m-tolyl-propionic acid
The title compound was prepared by Method 2 from 3-[5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-2-methyl-2-m-tolyl-propionic acid ethyl ester (0.11 g, 0.21 mmol), lithium hydroxide (88 mg, 2.1 mmol), THF (2.3 mL), MeOH (0.87 mL) and water (0.87 mL) giving 93 mg (90%) of 3-[5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-2-methyl-2-m-tolyl-propionic acid. HPLC: Rt=3.42 (Method B). MS (ES+): mass calculated for C27H24Cl2N2O3, 494.12; m/z found 495.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 12.50 (s, 1H), 7.58 (d, J=8.4 Hz, 1H), 7.41 (d, J=2.0 Hz, 1H), 7.26-7.19 (m, 3H), 7.16 (d, J=9.0 Hz, 2H), 7.08 (d, J=7.1 Hz, 1H), 7.03 (dd, J=2.0 Hz, 8.4 Hz, 1H), 6.97 (d, J=9.0 Hz, 2H), 6.20 (s, 1H), 3.78 (s, 3H), 3.37 (d, J=14.0 Hz, 1H), 3.14 (d, J=14.0 Hz, 1H), 2.31 (s, 3H), 1.46 (s, 3H).

reactant | 3-[5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-2-methyl-2-m-tolyl-propionic acid ethyl ester | 0.21 mmol, 0.11 g | C(C)OC(C(CC1=NN(C(=C1)C1=CC(=C(C=C1)Cl)Cl)C1=CC=C(C=C1)OC)(C=1C=C(C=CC1)C)C)=O | C29H28Cl2N2O3
reactant | lithium hydroxide | 2.1 mmol, 88 mg | [OH-].[Li+]
reactant | THF | 2.3 mL | C1CCOC1 | C4H8O
reactant | MeOH | 0.87 mL | CO | CH4O
solvent | water | 0.87 mL | O | H2O
product | 3-[5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-2-methyl-2-m-tolyl-propionic acid | 93 mg, 90% | ClC=1C=C(C=CC1Cl)C1=CC(=NN1C1=CC=C(C=C1)OC)CC(C(=O)O)(C=1C=C(C=CC1)C)C | C27H24Cl2N2O3
